US04730003
7,7-Dimethyl-2-(isopropenyl)-6,7-dihydro-3 H,5H-pyrrolo[2,3-f]benzimidazol-6-one
3.0 g. (15.7 mmole) 5,6-diamino-3,3-dimethylindolin-2-one and 1.37 g. (15.9 mmole) methacrylic acid are heated for 30 minutes at 200° C. in 28 g. polyphosphoric acid. Thereafter, the reaction mixture is mixed with 40 ml. ice water. The brown suspension obtained is adjusted, while cooling with ice, to pH 8 with 45 ml. concentrated aqueous ammonia solution. The substance is filtered off with suction and washed with a little water. There are obtained 3.74 g. of crude product which are dissolved in 5 ml. dimethyl sulphoxide, diluted with 15 ml. methanol and purified over a silica gel column (7.50 g. gel; elution agent: dichloromethane/methanol 10:1 v/v). There is obtained 0.6 g. (14% of theory) of the title compound; m.p. 270°-273° C.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | 15.7 mmole | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | methacrylic acid | 15.9 mmole | C(C(=C)C)(=O)O | C4H6O2
reactant | ammonia | N | H3N
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
product | 7,7-Dimethyl-2-(isopropenyl)-6,7-dihydro-3 H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C(=C)C)C=C21)=O)C | C14H15N3O
